US09107415B2
A solution of 2-(4-bromo-2,6-dimethylphenyl)-4-[1-(tetrahydropyran-4-yl)methylidene]cyclopentane-1,3-dione (0.10 g, 0.26 mmol) in methanol (100 ml) is passed over a cartridge of 10% platinum carbon under a 20 bar hydrogen atmosphere. The reaction mixture is then concentrated in vacuo, and the crude product is purified by flash column chromatography (hexane/ethyl acetate as eluant) to afford rac-2-(4-bromo-2,6-dimethylphenyl)-4-(tetrahydropyran-4-ylmethyl)cyclopentane-1,3-dione.

reactant | 2-(4-bromo-2,6-dimethylphenyl)-4-[1-(tetrahydropyran-4-yl)methylidene]cyclopentane-1,3-dione | 0.26 mmol, 0.10 g | BrC1=CC(=C(C(=C1)C)C1C(CC(C1=O)=CC1CCOCC1)=O)C | C19H21BrO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | platinum carbon | [C].[Pt]
product | rac-2-(4-bromo-2,6-dimethylphenyl)-4-(tetrahydropyran-4-ylmethyl)cyclopentane-1,3-dione | BrC1=CC(=C(C(=C1)C)C1C(CC(C1=O)CC1CCOCC1)=O)C | C19H23BrO3
